US08211908B2
To a solution of 2.5 g of 7-chloro-1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one in 30 mL of methanol, 5.4 g of a 28% sodium methoxide/methanol solution was added, and the mixture was heated under reflux while stirring for 3 hours 40 minutes. The reaction mixture was cooled to room temperature, then water was added thereto, and the solvent was then distilled off under reduced pressure. To the resultant residue, water, a saturated aqueous ammonium chloride solution and chloroform were added, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, and the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2.9 g of 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one as a yellow oily substance.

reactant | 7-chloro-1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one | 2.5 g | ClC1=CC=C2C=CC(N(C2=N1)CC1OCCO1)=O | C12H11ClN2O3
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | water | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 1-(1,3-dioxolan-2-ylmethyl)-7-methoxy-1,8-naphthyridin-2(1H)-one | 2.9 g | O1C(OCC1)CN1C(C=CC2=CC=C(N=C12)OC)=O | C13H14N2O4
